US07435833B2
Nona-1,8-dien-5-ol
3-Butenyl-magnesium bromide (125 mL, 0.5 M in tetrahydrofuran, 62.5 mmol) was added drop wise to a stirred and cooled (−78° C.) solution of pent-4-enal (4 g, 48.07 mmol) in dry tetrahydrofuran (160 mL). After the addition, the solution was warmed to room temperature and then quenched with NH4Cl solution. The mixture was partitioned with diethyl ether and the organic phase was washed with brine, dried (MgSO4), filtered, and evaporated. The residue was purified over silica gel using 5-15% diethyl ether in hexanes to give the title compound as an oil.

reactant | 3-Butenyl-magnesium bromide | 62.5 mmol, 0.5 M, 125 mL | C(CC=C)[Mg]Br
reactant | pent-4-enal | 48.07 mmol, 4 g | C(CCC=C)=O | C5H8O
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
product | Nona-1,8-dien-5-ol | C=CCCC(CCC=C)O | C9H16O
